US09193741B2
Synthesis of thieno[2,3-d]pyrimidin-4(3H)-one
A solution of methyl 2-aminothiophene-3-carboxylate (3.0 g, 19.1 mmol) in formamide (95 ml) was heated at 190° C. for 4 hours. The cooled mixture was poured into water. The precipitate was filtered off, washed with water and dried. The crude product was purified by silica gel chromatography (CH2Cl2/MeOH 50:1) to yield the title compound as a white solid (1.93 g, 66%).

reactant | methyl 2-aminothiophene-3-carboxylate | 19.1 mmol, 3.0 g | NC=1SC=CC1C(=O)OC | C6H7NO2S
reactant | water | O | H2O
reactant | formamide | 95 ml | C(=O)N | CH3NO
product | thieno[2,3-d]pyrimidin-4(3H)-one | 1.93 g, 66% | N1=CNC(C2=C1SC=C2)=O | C6H4N2OS
